US05262533
17-Ethyl-1-hydroxy-12-[2'-(3"-amino-4"-phenoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
17-Ethyl-1-hydroxy-12-[2'-(3"-azido-4"-phenoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone (24 mg) in THF (1 ml) containing 1 drop of water was treated with triphenylphosphine (9 mg) and the mixture stirred at room temperature for 72 hours. The reaction mixture was purified directly by preparative thin layer chromatography eluting eith 90% dichloromethane:10% methanol to give the title compound (5 mg, 20%) as a white solid. (1H NMR analysis was consistent with the desired structure).

reactant | 17-Ethyl-1-hydroxy-12-[2'-(3"-azido-4"-phenoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone | 24 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC=CC=C2)N=[N+]=[N-])C)C)=O | C48H70N4O10
reactant | triphenylphosphine | 9 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 1 ml | C1CCOC1 | C4H8O
catalyst | water | 1 drop | O | H2O
product | 17-Ethyl-1-hydroxy-12-[2'-(3"-amino-4"-phenoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 5 mg, 20% | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC=CC=C2)N)C)C)=O | C48H72N2O10
